US09353107B2
Step-iii: 3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (20 mg, 0.034 mmol) was deprotected in methanol/1,4-dioxane HCl in (0.3/1 ml). This afforded 10 mg (63% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.74 (s, 1H), 8.65 (s, 1H), 7.86 (s, 1H), 7.71-7.69 (d, 2H), 7.32-7.29 (t, 1H), 7.20-7.15 (m, 4H), 7.09-7.07 (d, 1H), 5.51 (s, 2H), 3.53-3.50 (m, 4H), 3.41-3.38 (m, 4H), 2.36-2.34 (m, 9H). MS: m/z=477.2 (M+1) HPLC 98.14% (method B).

reactant | tert-butyl 4-(4-(3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.034 mmol, 20 mg | CC1=NN(C(=C1C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C)CC2=CC(=CC=C2)C | C35H40N6O2
reactant | methanol 1,4-dioxane HCl | CO.Cl.O1CCOCC1
product | 3-(3,5-dimethyl-1-(3-methylbenzyl)-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 10 mg, 63% yield | Cl.CC1=NN(C(=C1C1=CNC2=NC=C(C=C21)C2=CC=C(C=C2)N2CCNCC2)C)CC2=CC(=CC=C2)C | InChI=1S/C30H32N6.ClH/c1-20-5-4-6-23(15-20)19-36-22(3)29(21(2)34-36)28-18-33-30-27(28)16-25(17-32-30)24-7-9-26(10-8-24)35-13-11-31-12-14-35;/h4-10,15-18,31H,11-14,19H2,1-3H3,(H,32,33);1H
